US07816361B2
Step 4: Preparation of 3-Oxo-3-pyrazin-2-yl-propionic acid, ethyl ester
To a stirred solution of diethyl malonate (1.25 ml, 1.32 g) in THF (20 ml) under an atmosphere of nitrogen at −60° C. was added nbutyl lithium (2.5 M, 9 ml) dropwise over 15 min, keeping the temperature constant. The reaction became a cloudy white colour from the formation of the di-lithium salt then became yellowish. After 10 min, the reaction was cooled to −78° C., when a solution of pyrazine-2-carbonyl chloride (0.5 g, dark purple solution in THF (10 ml)) was added dropwise over 15 min. The reaction then warmed to −45° C. and stirred for 1 h. The reaction was then poured into 1 M HCl solution (35 ml) with stirring. This was transferred to a separating funnel, and extracted with CH2Cl2 (2×150 ml). The combined organic layers were then washed with sat. NaCO3 soln (1×30 ml) and then dried over MgSO4, filtered and concentrated in vacuo to give the product as a brown oil. Yield 0.65 g, 45%.

reactant | diethyl malonate | 1.25 ml, 1.32 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | lithium | 2.5 M, 9 ml | [Li] | Li
reactant | pyrazine-2-carbonyl chloride | 10 ml, 0.5 g | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
reactant | HCl | 1 M, 35 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Oxo-3-pyrazin-2-yl-propionic acid, ethyl ester | O=C(CC(=O)OCC)C1=NC=CN=C1 | C9H10N2O3
